US06534522B2
B) 4-Benzyl-2-cyanopyridine
To a solution of 4-benzylpyridine-N-oxide (8.8 g, 48 mmol) in acetonitrile (50 mL) was added Et3N (9.9 mL, 71.2 mmol). Neat trimethylsilyl cyanide (15.8 mL, 118 mmol) was added dropwise. The resulting solution was heated at reflux for 10 h under nitrogen then after cooling, diluted with CH2Cl2 (150 mL). The resulting solution was washed with NaHCO3 (2×150 mL), dried over Na2SO4 and concentrated in vacuo. The crude compound was purified by filtration on silica gel using EtOAc/n-hexane as eluant to afford the title compound as a pale yellow oil (7.2 g, 78%): 1H NMR (CDCl3) δ4.03 (s, 2H), 7.16 (d, J=7.2 Hz, 2H), 7.20-7.40 (m, 4H), 7.49 (s, 1H), 8.59 (d, J=5.1 Hz, 1H); IR (film) 2240, 1600, 1500 cm−1.

reactant | 4-benzylpyridine-N-oxide | 48 mmol, 8.8 g | C(C1=CC=CC=C1)C1=CC=[N+](C=C1)[O-] | C12H11NO
reactant | Et3N | 71.2 mmol, 9.9 mL | CCN(CC)CC | C6H15N
reactant | trimethylsilyl cyanide | 118 mmol, 15.8 mL | C[Si](C)(C)C#N | C4H9NSi
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | 4-Benzyl-2-cyanopyridine | 7.2 g, 78% | C(C1=CC=CC=C1)C1=CC(=NC=C1)C#N | C13H10N2
